US07012075B2
To a solution of N-(1-phenyl-1H-tetraazol-5-yl)-L-leucine (100 mg, 0.36 mmol), aminoacetonitrile hydrochloride (62 mg, 0.68 mmol) and PyBOP (230 mg, 0.44 mmol) in DMF (3 mL) was added triethylamine (0.2 mL, 1.4 mmol). The solution was stirred 36 h, then partitioned between ethyl acetate and pH 3 phosphate buffer. The organic phase was washed with brine and concentrated. Purification by flash chromatography (60% to 90% ethyl acetate/hexanes) gave 62 mg of N1-(cyanomethyl)-N2-(1-phenyl-1H-tetraazol-5-yl)-L-leucinamide. MS (+APCI): 313.9 [M+1]+.

reactant | N-(1-phenyl-1H-tetraazol-5-yl)-L-leucine | 0.36 mmol, 100 mg | C1(=CC=CC=C1)N1N=NN=C1N[C@@H](CC(C)C)C(=O)O | C13H17N5O2
reactant | aminoacetonitrile hydrochloride | 0.68 mmol, 62 mg | Cl.NCC#N
reactant | PyBOP | 0.44 mmol, 230 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.4 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N1-(cyanomethyl)-N2-(1-phenyl-1H-tetraazol-5-yl)-L-leucinamide | 62 mg | C(#N)CNC([C@@H](NC1=NN=NN1C1=CC=CC=C1)CC(C)C)=O | C15H19N7O
